US05395947
D-threitol 1,4-bis(methanesulfonate) was reacted with formaldehyde and concentrated sulfuric acid as described in J. Med. Chem., 7, 14 (1964) to yield 2,3-O-methylene-D-threitol 1,4-bis(methanesulfonate) in 61% yield.

reactant | D-threitol 1,4-bis(methanesulfonate) | CS(=O)(=O)OC[C@@H](O)[C@H](O)COS(=O)(=O)C | C6H14O8S2
reactant | formaldehyde | C=O | CH2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,3-O-methylene-D-threitol 1,4-bis(methanesulfonate) | 61% yield | CS(=O)(=O)OC[C@@]1(O)[C@H](OC1)COS(=O)(=O)C | C7H14O8S2
